US08216547B2
A 3-L 4-neck flask equipped with an overhead mechanical stirrer, N2 inlet/outlet adapter, condenser and thermocouple was charged with MeOH (1.9 L) and N-[4-fluoro-3-(trifluoromethyl)-benzyl]-N-(3-methylbenzo[b]thiophen-2-yl)-4-carbomethoxy-benzenesulfonamide (190 g, 0.35 mol) followed by 3M NaOH (412 mL, 1.2 mol) and the resulting mixture refluxed for 2 h. The resulting mixture was then cooled to room temperature, diluted with EtOAc (2 L) and 1N HCl (2 L), the layers separated and the aqueous phase extracted with EtOAc (2 L). The organic extracts were combined, washed with brine (1.5 L), dried over Na2SO4, filtered and evaporated under reduced pressure to yield a yellow solid. The yellow solid was placed in vacuum oven for 18 h at 50° C. to yield N-[4-fluoro-3-(trifluoromethyl)-benzyl]-N-(3-methylbenzo[b]thiophen-2-yl)-4-carboxy-benzenesulfonamide as a yellow solid. 1H-NMR (DMSO-d6) δ 13.63 (s, 1H), 8.19 (d, 2H), 8.01 (d, 2H), 7.86-7.83 (m, 1H), 7.71-7.63 (m, 3H), 7.49-7.37 (M, 3H), 4.89 (br s, 1H), 1.95 (s, 3H).

reactant | MeOH | 1.9 L | CO | CH4O
reactant | N-[4-fluoro-3-(trifluoromethyl)-benzyl]-N-(3-methylbenzo[b]thiophen-2-yl)-4-carbomethoxy-benzenesulfonamide | 0.35 mol, 190 g | FC1=C(C=C(CN(S(=O)(=O)C2=CC=C(C=C2)C(=O)OC)C2=C(C3=C(S2)C=CC=C3)C)C=C1)C(F)(F)F | C25H19F4NO4S2
reactant | NaOH | 1.2 mol, 3M, 412 mL | [OH-].[Na+]
solvent | EtOAc | 2 L | CCOC(=O)C | C4H8O2
solvent | HCl | 1N, 2 L | Cl | ClH
product | N-[4-fluoro-3-(trifluoromethyl)-benzyl]-N-(3-methylbenzo[b]thiophen-2-yl)-4-carboxy-benzenesulfonamide | FC1=C(C=C(CN(S(=O)(=O)C2=CC=C(C=C2)C(=O)O)C2=C(C3=C(S2)C=CC=C3)C)C=C1)C(F)(F)F | C24H17F4NO4S2
